Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Abdominal pain, diarrhea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o male with a history of alcohol use
disorder and tobacco use disorder, chronic abdominal
pain/diarrhea who presents with abdominal pain, nausea and
trouble breathing. 

He initially presented with chest tightness and shortness of
breath as well as nausea without vomiting. He typically carries
an inhaler for reactive airways but did not bring it with him on
this trip. Additionally, he reports ___ years of intermittent
vomiting, diarrhea and abdominal pain. He describes a
LUQ/abdominal pain that can radiate into his chest or other 
parts
of his abdomen. It is intermittent, described as a "fire" and 
can
last for a few hours or the entire day. The pain occurs almost
daily but at times less severe. It is not worse with food or
position; worse when he is feeling angry. Also endorses
intermittent nausea and vomiting of non-bloody, non-bilious
emesis every ___ weeks. Additionally, he has daily diarrhea that
is worse in the morning. Normally, ___ non-bloody, clear
diarrhea. Stool does not typically float. He feels his diarrhea
is worse with drinking alcohol, no different recently. Also
endorses associated urgency without incontinence. No fever,
chills, chest pain, shortness of breath, cough, itchiness,
headaches, or other associated symptoms. He was told in ___ that he "has a bacteria inside" but has not received
treatment. He has been taking nexium with minimal improvement in
his symptoms but was taking an antacid in ___ that was
helping. He typically goes to the emergency department in ___ every month for his symptoms, receives IV fluids and
antiemetics with resolution of his symptoms. 

He also reports chronic alcohol use over the past ___ years. He
has been drinking about a half liter of vodka daily over the 
last
___ years. He denies any history of ETOH withdrawal or withdrawal
seizures. He has tried to quit in the past but has not been able
to. Notes he drinks so much to help his sleep as he would not
fall asleep for ~5 hours without it. Denies any history of
Tylenol, herbal medications, OTC medications, IV drug use. 

In the ED:
- Initial vital signs were notable for: Temp 97.8F BP 133/107 HR
102 RR 18 98% on RA 

- Exam notable for: RRR. CTAB. Abd w/ diffuse tenderness to
palpation without rebounding or guarding. No calf tenderness,
negative homans sign. 
 
- Labs were notable for: 
BMP: Normal, Cr 0.8
CBC: WBC 12.5, H/H ___, plt 221
LFTs: AST 168, ALT 336, AP 81, Tbili 0.9, Lipase 31, Trig 196 
Trop-T<0.01 
Lactate 1.7 
Serum ETOH negative 
UA with small lk, tr ket, few bacteria

- Studies performed include:
CXR: No acute intrathoracic process.

CT Abd/pelvis w/ Contrast: 
1. No acute abdominopelvic pathology to elucidate patient's 
pain.

2. No evidence of diverticulosis or acute diverticulitis. 

- Patient was given: IV pantoprazole 40mg, IV Zofran 4mg, IV
folic acid, IV thiamine 500mg, diazepam 10mg, 2L IVF

- Consults: None

Vitals on transfer: Temp 98.4F BP 122/72 HR 85 RR 17 98% on RA 

Upon arrival to the floor, the patient reports feeling well
without acute complaints. Denies abdominal pain, nausea,
vomiting, or diarrhea. His breathing issues resolved with
treatment. 

 
Past Medical History:
Alcohol use disorder
Tobacco use disorder
?Asthma/reactive airway disease 
 
Social History:
___
Family History:
Mother with hypertension.  Father is reportedly healthy. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
===========================
VITALS: Temp 97.6F BP 132/83 HR 70 RR 18 98% on RA 
GENERAL: WDWN male in NAD. Lying comfortably in bed.  
HEENT: NCAT. PERRL. Sclera anicteric and without injection.
Oropharynx clear. 
NECK: Supple. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, soft, obese. Non distended. Mild
TTP in epigastric region and LUQ. No rebound or guarding. 
MSK: Warm, well perfused. No ___ edema or erythema. 
SKIN: Warm, dry. No rashes. 
NEUROLOGIC: Alert and interactive. CN2-12 grossly intact. Moves
all extremities. 
PSYCH: appropriate mood and affect

DISCHARGE PHYSICAL EXAM
==============================
VITALS: 24 HR Data (last updated ___ @ 720)
    Temp: 97.3 (Tm 97.6), BP: 115/73 (115-132/73-83), HR: 69 
(69-70), RR: 18, O2 sat: 97% (97-98), O2 delivery: Ra  
GENERAL: WDWN male in NAD. Lying comfortably in bed.  
HEENT: NCAT. PERRL. Sclera anicteric and without injection. 
Oropharynx clear. 
NECK: Supple. 
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
RESP: Clear to auscultation bilaterally. No wheezes, rhonchi or 
rales. No increased work of breathing.
ABDOMEN: Normal bowels sounds, soft, obese. Non distended. Mild 
TTP in epigastric region and LUQ. No rebound or guarding. 
MSK: Warm, well perfused. No ___ edema or erythema. 
SKIN: Warm, dry. No rashes. 
NEUROLOGIC: Alert and interactive. CN2-12 grossly intact. Moves 
all extremities. 
PSYCH: appropriate mood and affect
 
Pertinent Results:
ADMISSION LABS
==================
___ 10:38PM BLOOD WBC-12.5* RBC-5.59 Hgb-19.0* Hct-54.2* 
MCV-97 MCH-34.0* MCHC-35.1 RDW-13.0 RDWSD-46.6* Plt ___
___ 10:38PM BLOOD Glucose-93 UreaN-9 Creat-0.8 Na-140 K-4.3 
Cl-100 HCO3-24 AnGap-16
___ 10:38PM BLOOD ALT-336* AST-168* AlkPhos-81 TotBili-0.9
___ 10:38PM BLOOD Lipase-31
___ 10:38PM BLOOD cTropnT-<0.01
___ 10:38PM BLOOD Albumin-4.8
___ 11:02PM BLOOD Calcium-9.9 Phos-4.0 Mg-1.9
___ 11:02PM BLOOD Triglyc-196*

DISCHARGE LABS
===================

___ 06:50AM BLOOD WBC-9.5 RBC-4.68 Hgb-15.8 Hct-46.4 
MCV-99* MCH-33.8* MCHC-34.1 RDW-13.2 RDWSD-47.7* Plt ___
___ 06:50AM BLOOD Glucose-86 UreaN-7 Creat-0.7 Na-145 K-4.2 
Cl-104 HCO3-27 AnGap-14
___ 06:50AM BLOOD ALT-230* AST-102* LD(LDH)-190 AlkPhos-60 
TotBili-0.9
___ 06:50AM BLOOD Calcium-9.2 Phos-4.2 Mg-1.7 Cholest-236*
___ 06:50AM BLOOD Triglyc-205* HDL-39* CHOL/HD-6.1 
LDLcalc-156*
___ 08:22AM BLOOD %HbA1c-5.0 eAG-97
___ 06:50AM BLOOD HBsAg-NEG HBsAb-POS HBcAb-NEG HAV Ab-NEG
___ 06:50AM BLOOD HIV Ab-NEG
___ 11:02PM BLOOD Ethanol-NEG
___ 06:50AM BLOOD HCV Ab-NEG

IMAGING
===================
RUQUS ___
IMPRESSION:  
  
Echogenic hepatic parenchyma consistent with steatosis.  No 
concerning liver 
lesion identified. 
  
RECOMMENDATION(S): 
 Radiological evidence of fatty liver does not exclude cirrhosis 
or 
significant liver fibrosis which could be further evaluated by 
___. 
This can be requested via the ___ (FibroScan), or the 
Radiology 
Department with MR ___, in conjunction with a 
GI/Hepatology 
consultation" * 

CT ABD Pelvis ___
FINDINGS:  
  
LOWER CHEST: Visualized lung fields are within normal limits.  
There is no 
evidence of pleural or pericardial effusion. 
  
ABDOMEN: 
  
HEPATOBILIARY: The liver demonstrates normal attenuation 
throughout.  There is 
no evidence of focal lesions. There is no evidence of 
intrahepatic or 
extrahepatic biliary dilatation.  The gallbladder is within 
normal limits. 
  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of 
focal lesions or pancreatic ductal dilatation.  There is no 
peripancreatic 
stranding. 
  
SPLEEN: The spleen shows normal size and attenuation throughout, 
without 
evidence of focal lesions. 
  
ADRENALS: The right and left adrenal glands are normal in size 
and shape. 
  
URINARY: The kidneys are of normal and symmetric size with 
normal nephrogram.  
There is no evidence of solid renal lesions or hydronephrosis.  
There is no 
perinephric abnormality. 
  
GASTROINTESTINAL: The stomach is unremarkable.  Small bowel 
loops demonstrate 
normal caliber, wall thickness, and enhancement throughout.  
Scattered few 
diverticulosis of the sigmoid colon is noted, without evidence 
of wall 
thickening or fat stranding. The appendix is normal. 
  
PELVIS: The urinary bladder and distal ureters are unremarkable. 
 There is no 
free fluid in the pelvis. 
  
REPRODUCTIVE ORGANS: The prostate and seminal vesicles are 
grossly 
unremarkable. 
  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There 
is no pelvic or inguinal lymphadenopathy. 
  
VASCULAR: There is no abdominal aortic aneurysm.  No 
atherosclerotic disease 
is noted.  Incidental note is made of a circumaortic left renal 
vein. 
  
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture. 
  
SOFT TISSUES: The abdominal and pelvic wall is within normal 
limits. 
  
IMPRESSION: 
  
  
1. No acute abdominopelvic pathology to explain patient's pain. 
2. Few scattered sigmoid colonic diverticulosis without evidence 
of acute 
diverticulitis. 

 
Brief Hospital Course:
SUMMARY
===============
Mr. ___ is a ___ y/o male with a history of alcohol use
disorder, tobacco use disorder, chronic abdominal pain/diarrhea
who presents with acute on chronic abdominal pain and diarrhea 
of unclear etiology. Overall patient's presentation was 
concerning for ETOH gastritis, malabsorptive, IBS/IBD, celiac 
disease or food intolerance. Initial workup included negative 
hepatitis serologies, and negative HIV. A liver ultrasound 
demonstrated steatosis of unclear significance. We counseled the 
patient on the importance of ensuring that he could tolerate PO 
prior to discharge, as well as ensuring follow up after 
discharge, but he declined to wait and elected to leave the 
hospital despite our recommendations.

TRANSITIONAL ISSUES
======================
[] At discharge, the patient had anti-TPP pending as well as 
IgA. 
[] Patient endorsing several years of intermittent abdominal 
pain associated with significant diarrhea and nausea. Unclear 
etiology of symptoms, but recommend workup as outpatient as 
patient has presented to ED on several occasions for the 
symptoms previously and has not followed up. 
[] Patient also endorsed significant alcohol use (half liter of 
vodka daily). Recommend referral to outpatient program if 
patient is agreeable. 
[] Patient with significant transaminitis on admission AST/ALT 
168/336 that downtrended to 102/230. Recommend repeat LFTs in 1 
week. 
[] Patient found to have high cholesterol- total 236, HDL 39, 
LDL 156. Recommend follow up as outpatient. 

ACUTE ISSUES
======================
ETOH use disorder
#ETOH withdrawal
Significant ETOH use for many years, noted to have withdrawal
symptoms in the ED. Denies any history of ETOH withdrawal 
symptoms or seizures. Currently appears asymptomatic. Received 
one dose of diazepam while in the ED while on CIWA protocol. 
Referred to social work for substance use but patient not 
interested in referral to program at this time. 

#Diarrhea
#Abdominal pain 
Presents with chronic abdominal pain and diarrhea present for
several years. Overall history concerning for ETOH gastritis vs
ulcer vs reflux with diarrhea likely due to significant ETOH
intake. Differential includes chronic pancreatitis, 
malabsorption, IBS/IBD, celiac disease, or food intolerance. HIV 
antibody negative. At discharge, anti-TTP and IgA Ab pending. 

#Polycythemia
H/H ___ on admission. Possibly hemo-concentrated iso diarrhea
though significant elevation concerning for a primary etiology. 
Resolution with repeat labs the following day following fluid 
administration. 

#Transaminitis
Elevated to the 100-300 range, ALT>AST. CT abd/pelvis suggestive
of hepatic steatosis. Ratio indicates less likely due to ETOH. 
No
known medications that could be contributing. Hepatitis 
serologies negative, as well as HIV. RUQUS demonstrating 
steatosis. 

#Leukoctyosis
WBC 12.5 on admission. Possibly hemo-concentrated iso diarrhea. 
UA/CXR negative. Low concern for active infection. Leukocytosis 
resolved by discharge. 

#J point elevation 
EKG with J point elevation in I, II, aVL, and V5-V6. Trop neg.
Currently asymptomatic. Low concern for ACS or pericarditis. 

CHRONIC ISSUES
======================
#Insomnia
Describes a chronic history of insomnia, prompting his ETOH
intake. Likely would benefit from further exploration of his
trouble sleeping and consideration of sleeping aids in order to
reduce ETOH intake. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Nexium 20 mg Other daily 

 
Discharge Medications:
1.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of breath, 
wheeze 
RX *albuterol sulfate [ProAir HFA] 90 mcg ___ Puffs IH every 
four (4) hours Disp #*1 Inhaler Refills:*0 
2.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Multivitamins 1 TAB PO DAILY 
RX *multivitamin  1 capsule(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Nicotine Patch 21 mg/day TD DAILY 
RX *nicotine 21 ___ patch on skin once a day Disp 
#*30 Patch Refills:*0 
5.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet by mouth once a 
day Disp #*30 Tablet Refills:*0 
6.  Nexium 20 mg Other daily  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
===================
Abdominal Pain 
ETOH Use Disorder 
Active Tobacco Use 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  

It was a pleasure caring for you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
================================
- You were having a lot of belly pain and diarrhea. 

WHAT HAPPENED TO ME IN THE HOSPITAL?  
=======================================
- You had some blood tests to see why you were having these 
symptoms. 
- You had an ultrasound of your liver that shows that your liver 
is abnormal. 
- We tested your cholesterol and you have high cholesterol. We 
recommend discussing this result with your primary care doctor 
as well. 

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
================================================
- WE STRONGLY RECOMMEND THAT YOU FOLLOW UP WITH A DOCTOR ABOUT 
YOUR SYMPTOMS AND THE FINDINGS FOR YOUR LIVER.

We wish you the best!  

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___